US04960779
Tetrabutylammonium fluoride (11.5 g) is added in small portions at a temperature in the region of 0° C. to a solution of 3-(5-tert-butyldimethylsilyloxy-2-oxopentyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (9.2 g) in anhydrous tetrahydrofuran (185 cc), and the solution obtained is stirred for 5 minutes at a temperature in the region of 0° C. The reaction mixture is then stirred for 1 hour 30 minutes at a temperature in the region of 20° C. and then poured into a mixture of ice (200 g) and water (600 cc). The insoluble product is separated by filtration, washed successively with water (5×25 cc) and diisopropyl ether (2×10 cc) and dried in the air. After recrystallization in acetonitrile, 3-(5-hydroxy-2-oxopentyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (5.6 g), m.p. 152° C., is obtained.

reactant | Tetrabutylammonium fluoride | 11.5 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-(5-tert-butyldimethylsilyloxy-2-oxopentyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.2 g | [Si](C)(C)(C(C)(C)C)OCCCC(CC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)=O | C28H35N3O4Si
reactant | water | 600 cc | O | H2O
solvent | tetrahydrofuran | 185 cc | O1CCCC1 | C4H8O
product | 3-(5-hydroxy-2-oxopentyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 5.6 g | OCCCC(CC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)=O | C22H21N3O4
